US04548932
To 7.6 g of benzyl 3(S)-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate is added 30 ml of hydrogen chloride-ethyl acetate solution (5N) and the mixture stands for 3 hours at room temperature. The mixture is concentrated under reduced pressure and the resulting residue is crystallized from a mixture of ethyl acetate and ether to give 6.2 g of benzyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate hydrochloride as a colorless crystalline powder, melting at 169°-172° C.

reactant | benzyl 3(S)-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 7.6 g | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(N(C1=O)CC(=O)OCC1=CC=CC=C1)C=CC=C2 | C23H26N2O6
reactant | hydrogen chloride-ethyl acetate | 5N, 30 ml | C(C)(=O)OCC.Cl
product | benzyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate hydrochloride | 6.2 g | Cl.N[C@H]1COC2=C(N(C1=O)CC(=O)OCC1=CC=CC=C1)C=CC=C2 | InChI=1S/C18H18N2O4.ClH/c19-14-12-23-16-9-5-4-8-15(16)20(18(14)22)10-17(21)24-11-13-6-2-1-3-7-13;/h1-9,14H,10-12,19H2;1H/t14-;/m0./s1
